US04920120
7-Chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester
7-Chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-napthyridine-3-carboxylic acid, (U.S. Pat. No. 4,663,457) (20.0 g, 71 mmol) and dimethylformamide (0.5 ml) were added to dichloromethane (750 ml) to give a tan slurry. Oxalyl chloride (7.4 ml, 85 mmol) was added to this slurry over one minute and the reaction mixture stirred for 90 minutes, then an additional 2.0 ml of oxalyl chloride was added and stirring continued for 60 minutes. To the resulting brown solution was added absolute ethanol (4.3 ml, 78 mmol) and the mixture stirred for four hours and then cooled to 0° C. and stored overnight. The reaction was warmed to room temperature and an additional 2 ml of absolute ethanol was added and the stirring continued for three hours. The reaction was evaporated to a brown solid. The solid was heated in THF, filtered, and cooled to 0° C. The crystals formed were collected and dried to give the title compound, (11.1 g, 50%).

reactant | 7-Chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-napthyridine-3-carboxylic acid | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)O)=O)F | C12H8ClFN2O3
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | Oxalyl chloride | 85 mmol, 7.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 2.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | dichloromethane | 750 ml | ClCCl | CH2Cl2
solvent | ethanol | 78 mmol, 4.3 ml | C(C)O | C2H6O
product | 7-Chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylic acid ethyl ester | 11.1 g, 50% | C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)F)Cl)C1CC1 | C14H12ClFN2O3
